US08802697B2
Synthesis of 6-(2,6-dichloro-3,5-dimethoxyphenyl)-8-methyl-2-(2-methyl-6-nitrophenylamino)pteridin-7(8H)-one
To a solution of 2-methyl-6-nitrobenzenamine (100 mg, 1 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (53 mg, 1.3 mmol), and the mixture was stirred at RT (10° C.) for 10 mins, followed by the addition of 2-chloro-6-(2,6-dichloro-3,5-dimethoxyphenyl)-8-methylpteridin-7(8H)-one (322 mg, 1 mmol). The mixture was stirred at RT (10° C.) for another 30 min and then quenched by water. The precipitate was collected via filtration, washed with cold water and dried to give the title compound (180 mg, 75%) as a yellow powder. MS (ES+) C22H18Cl2N6O5 requires: 516, 518. found: 517, 519 [M+H]+.

reactant | 2-methyl-6-nitrobenzenamine | 1 mmol, 100 mg | CC1=C(C(=CC=C1)[N+](=O)[O-])N | C7H8N2O2
reactant | sodium hydride | 1.3 mmol, 53 mg | [H-].[Na+]
reactant | 2-chloro-6-(2,6-dichloro-3,5-dimethoxyphenyl)-8-methylpteridin-7(8H)-one | 1 mmol, 322 mg | ClC1=NC=2N(C(C(=NC2C=N1)C1=C(C(=CC(=C1Cl)OC)OC)Cl)=O)C | C15H11Cl3N4O3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-(2,6-dichloro-3,5-dimethoxyphenyl)-8-methyl-2-(2-methyl-6-nitrophenylamino)pteridin-7(8H)-one | 180 mg, 75% | ClC1=C(C(=C(C=C1OC)OC)Cl)C1=NC=2C=NC(=NC2N(C1=O)C)NC1=C(C=CC=C1[N+](=O)[O-])C | C22H18Cl2N6O5
